US07781436B2
(6-Chloro-1-pyridin-2-ylmethyl-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone (preparation described herein), with methanesulfonic acid pyridin-2-ylmethyl ester (described in WO 9955318) gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C22H23ClN2O3
reactant | methanesulfonic acid pyridin-2-ylmethyl ester | N1=C(C=CC=C1)COS(=O)(=O)C | C7H9NO3S
product | (6-Chloro-1-pyridin-2-ylmethyl-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CN(C2=C1)CC1=NC=CC=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C28H28ClN3O3
